* C:\Users\dafang\Desktop\New_pv_array\1module.asc
V1 1 0 1.6
V2 2 0 {test}
V3 3 0 5.1
XX1 1 p 0 module
XX2 2 p 0 module
XX3 3 p 0 module
V4 N001 0 0
V5 p N001 0
R1 N001 0 10k

* block symbol definitions
.subckt module I_in Plus Mins
D1 N001 Mins diode1
rsh1 N001 Mins 3600
rs1 Plus N001 0.036
G1 Mins N001 I_in 0 1
.model diode1 D IS=1e-7 N=54
.ends module

.model D D
.lib C:\Users\dafang\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V4 0 25 0.1
.step param test 0 5.1 1.6
.backanno
.end
