* C:\Users\dafang\Desktop\New_pv_array\Draft2.asc
V1 N002 0 0
V2 N001 N002 0
R1 N002 0 10k
V3 1 0 5.1
V4 2 0 5.1
V5 3 0 5.1
XX1 1 N001 N003 module
XX2 2 N003 N004 module
XX3 3 N004 0 module
D1 0 N004 diodebp
D2 N004 N003 diodebp
D3 N003 N001 diodebp

* block symbol definitions
.subckt module I_in Plus Mins
D1 N001 Mins diode1
rsh1 N001 Mins 3600
rs1 Plus N001 0.036
G1 Mins N001 I_in 0 1
.model diode1 D IS=1e-7 N=54
.ends module

.model D D
.lib C:\Users\dafang\Documents\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 75 0.1
.MODEL diodebp D
.step param SUN 0.2 1 0.2
.step param SUN2 0.4 1 0.2
.param V3=5.1*SUN2 V2=5.1*SUN SUN=1 SUN2=1 V1=4*SUN3 SUN3=1
.step param SUN3 0.6 1 0.2
.backanno
.end
